US07476399B2
2-chloro-N-(heptan-4-yl)-6-methylnicotinamide
Prepared in a similar manner to example 4 using 2-chloro-6-methylnicotinic acid and 4-Heptylamine. MS (M+H, 269).

reactant | 2-chloro-6-methylnicotinic acid | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | 4-Heptylamine | CCCC(CCC)N | C7H17N
product | 2-chloro-N-(heptan-4-yl)-6-methylnicotinamide | ClC1=C(C(=O)NC(CCC)CCC)C=CC(=N1)C | C14H21ClN2O
